US04525298
2. 5-Methylene-7,7-dimethyl-octyl formate
20 mM of 5-methylene-7,7-dimethyloctanol were esterified with 6 ml of concentrated formic acid. The reaction took place at room temperature, under nitrogen and by mixing the ingredients under stirring for 24 h. The mixture was taken up with ether, washed with 2N NaOH, then with water until neutrality. The desired product was obtained after drying, concentration and bulb distillation under reduced pressure.

reactant | 5-methylene-7,7-dimethyloctanol | 20 mM | C=C(CCCCO)CC(C)(C)C | C11H22O
reactant | formic acid | 6 ml | C(=O)O | CH2O2
solvent | ether | CCOCC | C4H10O
product | 5-Methylene-7,7-dimethyl-octyl formate | C(=O)OCCCCC(CC(C)(C)C)=C | C12H22O2
